US06147088
Step 8B 2-{2-[3-(3-bromophenyl)-7-chloro-6-(3-cyclopropyl-ureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[6-amino-3-(3-bromophenyl)-7-chloro-2-oxo-1,2-dihydroquinolin-4-yloxy]-1-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (20 mg in 1.0 mL methylene chloride) at 0° C. was added 0.009 mL pyridine followed by 4 mg triphosgene and the mixture allowed to stir at 0° C. for 1 hour. At this time 0.012 mL of cyclopropylamine was added via syringe and the reaction mixture warmed to room temperature. After 2 hours, the mixture was diluted with 20 mL ethyl acetate and washed with saturated ammonium chloride (10 mL) and brine (10 mL). The organic portion was dried over magnesium sulfate then concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (hexane:ethyl acetate, 2:1; then 1:1; then 0:1) to give the title compound (14 mg).

reactant | 2-{2-[6-amino-3-(3-bromophenyl)-7-chloro-2-oxo-1,2-dihydroquinolin-4-yloxy]-1-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 1.0 mL, 20 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC=C1)Br | C27H31BrClN3O4
reactant | pyridine | 0.009 mL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 4 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | cyclopropylamine | 0.012 mL | C1(CC1)N | C3H7N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 2-{2-[3-(3-bromophenyl)-7-chloro-6-(3-cyclopropyl-ureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 14 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)NC1CC1)Cl)=O)C1=CC(=CC=C1)Br | C31H36BrClN4O5
